US03950333
Anhydrous ethylamine is reacted with N-cyano-N'-[2-(2-pyrazinylmethylthio)ethyl]-S-methylisothiourea by the procedure of Example 4 to give N-cyano-N'-ethyl-N"-[2-(2-pyrazinylmethylthio)ethyl]guanidine.

reactant | ethylamine | C(C)N | C2H7N
reactant | N-cyano-N'-[2-(2-pyrazinylmethylthio)ethyl]-S-methylisothiourea | C(#N)NC(SC)=NCCSCC1=NC=CN=C1 | C10H13N5S2
product | N-cyano-N'-ethyl-N"-[2-(2-pyrazinylmethylthio)ethyl]guanidine | C(#N)NC(=NCCSCC1=NC=CN=C1)NCC | C11H16N6S
